US06844336B2
a) 1-(2,4-Dihydroxyphenyl)-2-(4-hydroxyphenyl)-ethanone
0.88 ml of trifluoroacetic acid anhydride and 1.37 ml of pyridine are simultaneously added in drops to 1.15 g of 4,7-dihydroxy-3-(4-hydroxyphenyl)-2-[4-(2-piperidin-1-ylethoxy) -phenyl]-4-(trifluoromethyl)-2,3-dihydro-4H-1-benzopyran in 20 ml of THF. It is stirred for 4 hours at room temperature before 70 ml of ethyl acetate and 20 ml of 10% sodium carbonate solution are added. It is stirred for 20 more minutes at room temperature. The phases are separated, and the aqueous phase is shaken out three times with 40 ml of ethyl acetate. The combined organic phases are washed twice with 20 ml of water, dried on magnesium sulfate and concentrated by evaporation. The product is prepurified on silica gel with dichloromethane/methanol and then purified with HPLC (nucleosil 50-7, dichloromethane/methanol 85:15, 40 ml/min). 590 mg is obtained.

reactant | trifluoroacetic acid anhydride | 0.88 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 1.37 ml | N1=CC=CC=C1 | C5H5N
reactant | 4,7-dihydroxy-3-(4-hydroxyphenyl)-2-[4-(2-piperidin-1-ylethoxy) -phenyl]-4-(trifluoromethyl)-2,3-dihydro-4H-1-benzopyran | 1.15 g | OC1(C(C(OC2=C1C=CC(=C2)O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)O)C(F)(F)F | C29H30F3NO5
reactant | sodium carbonate | 20 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2,4-Dihydroxyphenyl)-2-(4-hydroxyphenyl)-ethanone | OC1=C(C=CC(=C1)O)C(CC1=CC=C(C=C1)O)=O | C14H12O4
